US07705027B2
Sodium (3 eq) was added to ethanol under nitrogen at room temperature and stirred until complete dissolution occured. 1-(2,4-Bis-benzyloxy-5-isobutyl-phenyl)-ethanone (1 eq) was added, followed by diethyl oxalate (1.5 eq) and the reaction mixture heated to reflux for 4 hours. The mixture was allowed to cool to room temperature and acidified with 2M HCl (aq) to give a yellow precipitate of 4-(2,4-Bis-benzyloxy-5-isobutyl-phenyl)-2,4-dioxo-butyric acid ethyl ester, which was obtained by filtration.

reactant | Sodium | 3 eq | [Na] | Na
reactant | 1-(2,4-Bis-benzyloxy-5-isobutyl-phenyl)-ethanone | 1 eq | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)CC(C)C)C(C)=O | C26H28O3
reactant | diethyl oxalate | 1.5 eq | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | HCl | 2M | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 4-(2,4-Bis-benzyloxy-5-isobutyl-phenyl)-2,4-dioxo-butyric acid ethyl ester | C(C)OC(C(CC(=O)C1=C(C=C(C(=C1)CC(C)C)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O)=O | C30H32O6
